US07807672B2
Preparation of 1-carboxymethyl-3-methoxymethyl-pyrrolidine-3-carboxylic acid methyl ester
The 1-tert-butoxycarbonylmethyl-3-methoxymethyl-pyrrolidine-3-carboxylic acid methyl ester (118 mg) was treated with trifluoroacetic acid (2 ml), stirred for 20 minutes and evaporated to a residue that was exchanged with hydrochloric acid (1 ml, 4N) and lyophilized overnight to a gummy title product.

reactant | 1-tert-butoxycarbonylmethyl-3-methoxymethyl-pyrrolidine-3-carboxylic acid methyl ester | 118 mg | COC(=O)C1(CN(CC1)CC(=O)OC(C)(C)C)COC | C14H25NO5
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 1-carboxymethyl-3-methoxymethyl-pyrrolidine-3-carboxylic acid methyl ester | COC(=O)C1(CN(CC1)CC(=O)O)COC | C10H17NO5
